Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
"I went to a psychiatrist and we decided I should come here"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is an ___ female with a history of major depressive 
disorder, with one suicide attempt in ___ which was followed 
by her only psychiatric hospitalization, who presents to the ED 
after presenting to ___ for an intake and expressing suicidal 
ideation.  Pt was sent via ambulance on a
___ by this writer.  

Pt continues to have symptoms of depression, including very low 
energy, persistent depressed mood, low motivation, variable 
appetite, and poor sleep.   Pt states that has been feeling this 
badly since ___, which is when she last saw a psychiatrist.  
Since then, she has been taking less wellbutrin than was
prescribed as she has been unable to find a provider here, going 
from 450mg daily to 300mg daily.  She reports that her 
depression is affecting her functioning at school and feels she 
would not be able to make it to classes if she had morning 
classes as she is unable to fall asleep until after sunrise.  
The pt was able to complete this semester, but her school closes 
today, and she was supposed to go home, which she reports is not 
an emotionally safe place for her as her mother "has her own 
issues."  Her PCP's notes indicate that the pt is worried that 
she will no longer be able to attend school as her parents are 
struggling financially. 

Pt also endorses suicidal ideation.  She reports that she has 
been stockpiling some of her medications at home and has thought 
more about hurting herself.  She states that what has stopped 
her from killing herself is that she is getting better at 
illustration while at school and "kind of want[s] to see where
that goes."  

Pt also endorses panic attacks once monthly, during which she 
feels like she is going to faint, feels like her heart is 
racing, and hyperventilates.  She does not worry about these 
though.  She denies persistent worrying or sx of other anxiety 
disorders. 

Pt reports a persistent concern about her weight, stating that 
she does things to try to control her weight "but not 
successfully."  She reports overeating at times and then either 
exercising excessively or fasting for periods of time to
compensate.  She has not done this lately as she has not had 
energy to exercise.  She denies purging behaviors or other forms 
of compensation for binge eating.  

Pt. has been on both vyvanse and metadate for presumed ADHD, but 
she has not been formally tested.  She endorses poor 
concentration, distractability, being forgetful, losing things 
frequently, and interrupting others during conversation.

Denies sx of mania.  Denies HI, AVH, paranoia.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Dx: major depressive disorder, symptoms starting in ___ grade
-Hospitalizations: one for two weeks at ___
-SA/SIB: ___ year ago (___) via overdose ___ 2-week
admission to psych unit in ___
-Aggressive/Impulsive behaviors: denies
-Trauma: denies
-Medications:  vyvanse - helpful with energy and attention;
metadate - worked a little better than vyvanse; depakote -
doesn't remember; wellbutrin - helpful at first; lithium - 
caused
significant weight gain and lethargy in the one month she was
taking it; seroquel - sleepy the next morning; has taken other
antidepressant(s) but doesn't remember names; trazodone - helped
with sleep initially but then effect wore off over time; blood
pressure medication for sleep but unsure which one
-Treaters: saw two therapists at home in ___, was 
trying
to see a therapist here in ___ but had insurance changes and
can no longer afford the copay; also had a psychiatrist (Dr. 
___ at home in ___ has seen a "wellness person" at
school until she could be connected to treatment

PAST MEDICAL HISTORY:  
Recurrent UTIs
Allergic rhinitis                               

 
Social History:
___
Family History:
Mother with depression
Father with depression, ADHD
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: T 98.7, BP 117/76, HR 102, RR 16, O2 99% RA

General: NAD. Well-nourished, well-developed. Appears stated 
age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI
Lungs: CTAB, no wheezing or crackles noted
CV: RRR, no murmurs appreciated
Abdomen: +BS, soft, nontender, nondistended
Extremities: No peripheral edema, distal pulses intact.
Skin: No rashes or lesions noted

NEUROLOGIC EXAMINATION:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor noted 
- Strength: Full power ___ thoroughout 
- Coordination: Finger to nose coordination intact
- Sensation: Intact to light touch throughout. 
- Gait: Steady. Normal stance and posture.

COGNITIVE EXAM: 
- Wakefulness/alertness: awake and alert
- Attention: DOWB
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not tested
- Memory: intact to recent and past history
- Fund of knowledge: consistent with education
- Calculations: correctly states 7 quarters in $1.75
- Abstraction: "don't judge a book by its cover" = "don't judge
something before you get to know it"
- Speech: low volume, slow rate, increased latency
- Language: fluent ___

MENTAL STATUS EXAM:
- Appearance: age-appearing F wearing black beanie hat and
hospital gown, hugging stuffed penguin
- Behavior: cooperative, moving slowly, fair eye contact
- Mood: "miserable"
- Affect: dysthymic, mood congruent
- Thought Process: linear, no LoA
- Thought Content: endorses SI with thoughts of overdosing,
denies suicidal intent, denies HI, AVH, paranoid ideation. No
evidence of delusions
- Judgment/Insight: poor/fair

DISCHARGE PHYSICAL EXAM:
EXAM:
  *VS: T 98.3; BP 110/72; HR 77; RR 16; O2 99% RA 
Neurological:
  *station and gait: steady, normal stance and posture, without 
truncal ataxia
  *tone and strength: wnl; moves upper and lower extremities 
antigravity and with apparent full ROM
  cranial nerves: CN II-XII intact and symmetric, without focal 
deficits
  abnormal movements: None observed
  *Appearance: Age-appearing, well-developed female; she is 
well-groomed, with appropriate hygiene; in no acute distress
  Behavior: Cooperative, improved eye contact; 
  *Mood and Affect: "better"; Affect slightly constricted, 
brightens at times
  *Thought process: Logical, linear and goal directed, without 
evidence of LOA
  *Thought Content: Denies current SI/HI; Denies AH/VH; Patient 
does not appear to be responding to internal stimuli
  *Judgment and Insight: Impaired/Fair
 Cognition:
  *Attention, *orientation, and executive function: Alert and 
oriented x 3
  *Memory: Intact to interview and recent events
  *Fund of knowledge: Appropriate for level of education
  *Speech: More spontaneous; somewhat monotone, low volume
  *Language: Fluent ___ speaker without evidence of LOA
 
Pertinent Results:
___ 10:45AM BLOOD WBC-6.9 RBC-4.00 Hgb-11.8 Hct-36.5 MCV-91 
MCH-29.5 MCHC-32.3 RDW-11.8 RDWSD-39.5 Plt ___
___ 10:45AM BLOOD Neuts-56.7 ___ Monos-9.2 Eos-3.1 
Baso-0.4 Im ___ AbsNeut-3.90 AbsLymp-2.08 AbsMono-0.63 
AbsEos-0.21 AbsBaso-0.03
___ 10:45AM BLOOD Plt ___
___ 10:45AM BLOOD Glucose-87 UreaN-11 Creat-0.8 Na-137 
K-3.4 Cl-99 HCO3-26 AnGap-15
___ 10:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major Depressive Disorder
Patient reported worsening depressive symptoms and suicidal 
ideation with plan to overdose on medications.  Of note, patient 
had a suicide attempt at this same time last year via overdose, 
resulting in her only psychiatric hospitalization.  Patient 
cited several psychosocial stressors, particularly stress at 
home as she approaches the ___ holiday from college.  
- Changed Wellbutrin 150 mg PO BID to Wellbutrin XL 450 mg PO 
Daily
- Initiated Lamotrigine 25 mg PO Daily, this was well-tolerated 
without side effects
- Initiated Trazodone 25 mg PO QHS PRN Insomnia, which was 
gradually uptitrated to 50 mg PO QHS PRN with good effect.  
- Initiated Vistaril 25 mg PO Q6H PRN for anxiety 
- Provided individual, group, and milieu therapy

3. SUBSTANCE USE DISORDERS:
#) No substance abuse

4. MEDICAL
#) No acute medical issues.  Vitals were monitored and 
reassuring.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Patient was fairly visible in 
the milieu, though often on the periphery, and was appropriate 
with staff throughout her stay.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Team spoke with outpatient providers and family members (aunt) 
to gather collateral and provide clinical updates.  Patient 
refused to allow team to speak with her mother and father.  

#) INTERVENTIONS
- Medications: As above
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Made appointment with outpatient 
psychiatrist, who will ensure the patient gets connected to a 
therapist.  
- Behavioral Interventions: Encouraged distress tolerance/coping 
skills 
- Guardianships: None

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to self based upon reported suicidal 
ideation.

Their static factors noted at that time include:
- history of suicide attempts 
- Caucasian race 
- single marital status 

The modifiable risk factors were addressed during this 
hospitalization:
- suicidal ideation: patient consistently denied suicidal 
ideation throughout her hospital course.  
- limited social supports: Engaged aunt in her treatment, as 
patient did not want her parents involved given relationship 
stress in their household.  Aunt has been a good source of 
support for the patient in the past.  
- limited coping skills: Encouraged patient to attend groups 
which teach coping skills, which she took advantage of during 
her hospital course.

Finally, the patient is being discharged with many protective 
risk factors:
- help-seeking nature 
- reality testing ability 
- positive therapeutic relationship with outpatient providers
- academic success in ___ school. 

Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others and is suitable for outpatient level of care. 

Our Prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 150 mg PO BID 
2. NuvaRing (etonogestrel-ethinyl estradiol) 0.12-0.015 mg/24 hr 
vaginal monthly 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 450 mg PO DAILY 
RX *bupropion HCl [Wellbutrin XL] 150 mg 3 tablet(s) by mouth 
every morning Disp #*90 Tablet Refills:*0 
2.  LamoTRIgine 25 mg PO QHS 
Please discuss increasing the dose of this medication with your 
outpatient psychiatrist 
RX *lamotrigine 25 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
3.  TraZODone 50 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 1 tablet(s) by mouth Before Bed Disp #*30 
Tablet Refills:*0 
4.  NuvaRing (etonogestrel-ethinyl estradiol) 0.12-0.015 mg/24 
hr vaginal monthly  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Recurrent, Severe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for worsening depressed mood and 
suicidal ideation.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___